US04353898
Methyl 11α-cyclohexylamino-3-oxo-5α-androstane-17β-carboxylate
Jones reagent was added dropwise to a stirred solution of methyl 11α-cyclohexylamino-3β-hydroxy-5α-androstane-17β-carboxylate (300 mg) in acetone (40 ml) until the reagent colour was not discharged. Water (200 ml) was added and the mixture was brought to pH 10 with 0.88 NH3 solution. Ether (50 ml) was added and the mixture was filtered. The aqueous phase was separated, extracted with ether (50 ml) and the organic phase was washed with water, dried and evaporated to leave an oil (289 mg) which crystallised from petrol to give the title compound m.p. 93°-94° C., [α]D -12°.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | methyl 11α-cyclohexylamino-3β-hydroxy-5α-androstane-17β-carboxylate | 300 mg | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(CC[C@@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C27H45NO3
reactant | Water | 200 ml | O | H2O
reactant | NH3 | N | H3N
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | Ether | 50 ml | CCOCC | C4H10O
product | Methyl 11α-cyclohexylamino-3-oxo-5α-androstane-17β-carboxylate | 289 mg | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(CCC(C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)=O)C | C27H43NO3
